US09120823B2
To a mixture of 2-(3-ethylsulfanyl-5-trifluoromethyl-pyridin-2-yl)-3-methyl-6-trifluoromethylsulfanyl-3H-imidazo[4,5-b]pyridine (299 mg) and chloroform (30 ml) was added m-chloroperbenzoic acid (purity: not less than 65%) (0.34 g) while ice-cooling, and the mixture was stirred while ice-cooling for 5 hours. To the reaction mixture were poured saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium thiosulfate solution, and the mixture was extracted with chloroform. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 2-(3-ethylsulfonyl-5-trifluoromethyl-pyridin-2-yl)-3-methyl-6-trifluoromethylsulfanyl-3H-imidazo[4,5-b]pyridine (0.24 g), which is hereinafter referred to as “the present compound 44”.

reactant | 2-(3-ethylsulfanyl-5-trifluoromethyl-pyridin-2-yl)-3-methyl-6-trifluoromethylsulfanyl-3H-imidazo[4,5-b]pyridine | 299 mg | C(C)SC=1C(=NC=C(C1)C(F)(F)F)C1=NC=2C(=NC=C(C2)SC(F)(F)F)N1C | C16H12F6N4S2
reactant | m-chloroperbenzoic acid | 0.34 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-ethylsulfonyl-5-trifluoromethyl-pyridin-2-yl)-3-methyl-6-trifluoromethylsulfanyl-3H-imidazo[4,5-b]pyridine | 0.24 g | C(C)S(=O)(=O)C=1C(=NC=C(C1)C(F)(F)F)C1=NC=2C(=NC=C(C2)SC(F)(F)F)N1C | C16H12F6N4O2S2
